US06300352B1
e) 3-[4-(4-Bromophenoxy)-3-(tert-butyldimethylsilanyloxy)-5-methylhexyl]pyridine
Solid tert-butyldimethylsilyl chloride (0.46 g) was added to a solution of (3R, 4S)-4-(4-bromophenoxy)-5-methyl-1-pyridin-3-yl-3-hexanol (0.93 g) andimidazole (0.26 g) in dry dimethylformamide (12 ml) and the resulting solution stirred at room temperature for 3 days. Water (100 ml) and ether (100 ml) were added. The organic phase was separated, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica gel eluting with dichloromethane then dichloromethane: hexane (1:1) to give the sub-title compound as an oil (0.70 g).

reactant | tert-butyldimethylsilyl chloride | 0.46 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (3R, 4S)-4-(4-bromophenoxy)-5-methyl-1-pyridin-3-yl-3-hexanol | 0.93 g | BrC1=CC=C(O[C@H]([C@@H](CCC=2C=NC=CC2)O)C(C)C)C=C1 | C18H22BrNO2
reactant | Water | 100 ml | O | H2O
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 3-[4-(4-Bromophenoxy)-3-(tert-butyldimethylsilanyloxy)-5-methylhexyl]pyridine | 0.70 g | BrC1=CC=C(OC(C(CCC=2C=NC=CC2)O[Si](C)(C)C(C)(C)C)C(C)C)C=C1 | C24H36BrNO2Si
